US09447046B2
Preparation 92a: 4-(2,3-dihydro-1-benzofuran-7-yl)but-3-enoic acid
To a solution of (2-carboxyethyl)triphenylphosphonium bromide (617 mg, 1.5 mmol) in THF (20 mL) was added NaHMDS (1.5 mL, 3.0 mmol) at −20° C., and the reaction was stirred for 20 min. 2,3-Dihydro-1-benzofuran-7-carbaldehyde (200 mg, 1.4 mmol) was added to the reaction at −78° C., and the reaction was stirred overnight while warming to rt. The reaction was diluted with water (30 mL) and extracted with EtOAc (3×30 mL). Organics were washed with brine (30 mL), dried (Na2SO4), and concentrated to give the crude title compound as a yellow solid. [M+H] Calc'd for C12H12O3, 205. Found, 205.

reactant | (2-carboxyethyl)triphenylphosphonium bromide | 1.5 mmol, 617 mg | [Br-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaHMDS | 3.0 mmol, 1.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2,3-Dihydro-1-benzofuran-7-carbaldehyde | 1.4 mmol, 200 mg | O1CCC2=C1C(=CC=C2)C=O | C9H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 4-(2,3-dihydro-1-benzofuran-7-yl)but-3-enoic acid | O1CCC2=C1C(=CC=C2)C=CCC(=O)O | C12H12O3
